US06211234B1
Diethyl oxalate (17.7 g) is added in one portion to a stirred suspension of potassium ethoxide (10.2 g) in anhydrous ether (1000 mL). The stirred mixture is cooled to 0° C., treated with 4-benzyloxyacetophenone (25 g) portionwise, and stirring continued for 3 hours. After standing at room temperature for 18 hours the reaction mixture is poured onto 1 N hydrochloric acid (500 mL) and the organic phase separated. The organic phase is washed with water, dried over magnesium sulphate and evaporated to give ethyl 4-benzyloxypheyl-2,4-dioxobutanoate (35 g).

reactant | Diethyl oxalate | 17.7 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium ethoxide | 10.2 g | [O-]CC.[K+]
reactant | 4-benzyloxyacetophenone | 25 g | CC(=O)C1=CC=C(C=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | hydrochloric acid | 1 N, 500 mL | Cl | ClH
solvent | ether | 1000 mL | CCOCC | C4H10O
product | ethyl 4-benzyloxypheyl-2,4-dioxobutanoate | 35 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C(=O)OCC)=O)C=O | C19H18O5
